US05254589
N-[2,6-Bis(1-methylethyl)phenyl]-N'-methyl-N'-(tetradecylsulfonyl)urea
CH3I (0.15 mL, 2 3 mmoles) was added dropwise to a room temperature solution of N-[2,6-bis(1-methylethyl)phenyl]-N'-(tetradecylsulfonyl)urea (1.0 g, 2.08 mmoles) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0 34 mL, 2.3 mmoles), stirring in 10 mL of CH3CN. The solution was stirred overnight at room temperature, diluted with EtOAc, washed with 1M HCl, H2O, brine, and dried (MgSO4). Filtration and evaporation afforded an oil which was flash chromatographed (silica gel, 10:1 hexane-ethyl acetate) to provide 800 mg of a colorless oil.

reactant | CH3I | 3 mmoles, 0.15 mL | CI | CH3I
reactant | N-[2,6-bis(1-methylethyl)phenyl]-N'-(tetradecylsulfonyl)urea | 2.08 mmoles, 1.0 g | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)NS(=O)(=O)CCCCCCCCCCCCCC | C27H48N2O3S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.3 mmoles, 34 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[2,6-Bis(1-methylethyl)phenyl]-N'-methyl-N'-(tetradecylsulfonyl)urea | 800 mg | CC(C)C1=C(C(=CC=C1)C(C)C)NC(=O)N(S(=O)(=O)CCCCCCCCCCCCCC)C | C28H50N2O3S
